US05905084
2-(2-dimethylaminoethen-1-yl)-3-nitro-6-chloropyridine
A solution of 5 gm (29 mMol) 6-chloro-3-nitro-2-picoline in 40 mL dimethylformamide was treated with 5.83 mL (44 mMol) dimethylformamide dimethylacetal and the resulting mixture heated at 100° C. for 1.5 hours. At this point, 2 drops of triethylamine followed by 1.9 mL dimethylformamide dimethylacetal were added and heating continued for 2 more hours. The reaction mixture was concentrated under reduced pressure to provide the desired compound.

reactant | 6-chloro-3-nitro-2-picoline | 29 mMol, 5 gm | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | dimethylformamide dimethylacetal | 44 mMol, 5.83 mL | COC(N(C)C)OC | C5H13NO2
reactant | dimethylformamide dimethylacetal | 1.9 mL | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 2-(2-dimethylaminoethen-1-yl)-3-nitro-6-chloropyridine | CN(C=CC1=NC(=CC=C1[N+](=O)[O-])Cl)C | C9H10ClN3O2
